US07399778B2
B. 2-(1-Azido-2-ethylbutyl)-1-benzyl-1H-imidazole
To 1-(1-benzyl-1H-imidazol-2-yl)-2-ethylbutan-1-ol (1.78 g, 6.88 mmol) in THF (50 mL) at 0° C. was added triphenylphosphine (2.71 g, 10.3 mmol), diethyl azodicarboxylate (1.62 mL, 10.3 mmol) and diphenylphosphorylazide (2.22 mL, 10.3 mmol). The reaction mixture was slowly warmed to room temperature and stirred for 18 h. The reaction mixture was diluted with EtOAc and extracted 2 times with 1N HCl. The aqueous layer was washed EtOAc, then basicified with saturated aqueous NaHCO3 and extracted twice with EtOAc. The organic layer was dried over MgSO4, filtered, and concentrated in vacuo. The resulting oil was purified by column chromatography (SiO2, 100% CHCl3, then MeOH/CHCl3/Et3N, 1:98.5:0.5) to yield a pure oil in 30% yield.

reactant | 1-(1-benzyl-1H-imidazol-2-yl)-2-ethylbutan-1-ol | 6.88 mmol, 1.78 g | C(C1=CC=CC=C1)N1C(=NC=C1)C(C(CC)CC)O | C16H22N2O
reactant | triphenylphosphine | 10.3 mmol, 2.71 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 10.3 mmol, 1.62 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | diphenylphosphorylazide | 10.3 mmol, 2.22 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(1-Azido-2-ethylbutyl)-1-benzyl-1H-imidazole | 30% yield | N(=[N+]=[N-])C(C(CC)CC)C=1N(C=CN1)CC1=CC=CC=C1 | C16H21N5
